US08541432B2
41-A. {4-[1-(3-Trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]-5,8-dihydro-6H-pyrido[3,4-d]pyrimidin-7-yl}-acetic acid tert-butyl ester.
A solution of 5-(5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidin-4-yloxy)-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide, Example 33-C, (250 mg, 0.55 mmol), bromo tert-butylacetate (204 μL, 1.38 mmol), TEA (384 μL, 2.76 mmol) and ACN (5 mL) is stirred at room temperature. Following completion of the reaction the contents of the flask are partitioned between DCM and brine. Organic layer is dried over anhydrous Na2SO4, concentrated, and the residue is separated via FCC (50-100% EtOAc/heptane) to give the title compound. MS (ESI) m/z 568.1 (M+1).

reactant | 5-(5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidin-4-yloxy)-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide | FC(C=1C=C(C=CC1)NC(=O)N1C=CC2=CC(=CC=C12)OC=1C2=C(N=CN1)CNCC2)(F)F | C23H18F3N5O2
reactant | bromo tert-butylacetate | 0.55 mmol, 204 μL, 250 mg | C(C)(C)(C)CC(=O)OBr | C6H11BrO2
solvent | ACN | 5 mL | C(C)#N | C2H3N
product | {4-[1-(3-Trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]-5,8-dihydro-6H-pyrido[3,4-d]pyrimidin-7-yl}-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1CC=2N=CN=C(C2CC1)OC=1C=C2C=CN(C2=CC1)C(NC1=CC(=CC=C1)C(F)(F)F)=O)=O | C29H28F3N5O4
